US07220777B2
6-(4-Chloro-phenyl)-3-[3-methoxy-4-(2-pyrrolidin-1-yl-ethoxy)phenyl]-3H-quinazolin-4-one
This acid (0.14 g, 0.5 mmol) was dissolved in dichloromethane (2 ml) and oxalyl chloride added (87 μl, 1 mmol). The mixture was stirred for 60 min at room temperature under argon. The solvent was evaporated and the residue added to a solution of 3-methoxy-4-(2-pyrrolidin-1-ylethoxy)phenylamine [Example A4] (0.10 g, 0.44 mmol) and triethylamine (70 μl, 0.5 mmol) in dichloromethane (4 ml). The mixture was stirred for 90 mins at room temperature under argon and then washed with a saturated aqueous solution of NaHCO3 (5 ml) and brine (5 ml). The organic layer was dried over MgSO4, the solvent evaporated and the residue purified by flash chromatography on silica gel (eluting with methanol-dichloromethane-aq. ammonia). 4′-Chloro-4-nitrobiphenyl-3-carboxylic acid [3-methoxy-4-(2-pyrrolidin-1-ylethoxy)phenyl]amide was obtained in 54% yield; m/z [APCI+] 496 (100%, M+H+). Iron powder (45 mg, 0.81 mmol) and ammonium chloride (72 mg, 1.35 mmol) were mixed in water (2 ml) and 4′-chloro-4-nitrobiphenyl-3-carboxylic acid [3-methoxy-4-(2-pyrrolidin-1-ylethoxy)phenyl]amide (0.13 g, 0.27 mmol) added, dissolved in MeOH (2 ml). The mixture was heated at 80° C. for 90 min and then filtered while hot. Dichloromethane (30 ml) was added to the cooled filtrate. The organic layer was washed with water (10 ml), saturated aqueous NaHCO3 (10 ml) and brine (10 ml), then dried and the solvent evaporated to give a yellow gum. This was dissolved in 1,2-dichloroethane (10 ml) and triethylorthoformate (4 ml). The mixture was refluxed for 16 h under argon, then after cooling DBU (0.2 ml) was added and the mixture was stirred for 10 mins at room temperature. The solvent was evaporated and the residue purified by flash chromatography on silica gel (eluting with methanol-dichloromethane-aqueous ammonia) to yield the title compound as an orange gum;

reactant | ammonium chloride | 1.35 mmol, 72 mg | [Cl-].[NH4+]
reactant | 4′-chloro-4-nitrobiphenyl-3-carboxylic acid [3-methoxy-4-(2-pyrrolidin-1-ylethoxy)phenyl]amide | 0.27 mmol, 0.13 g | COC=1C=C(C=CC1OCCN1CCCC1)NC(=O)C=1C=C(C=CC1[N+](=O)[O-])C1=CC=C(C=C1)Cl | C26H26ClN3O5
reactant | DBU | 0.2 ml | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | water | 2 ml | O | H2O
solvent | MeOH | 2 ml | CO | CH4O
solvent | 1,2-dichloroethane | 10 ml | ClCCCl | C2H4Cl2
solvent | triethylorthoformate | 4 ml | C(C)OC(OCC)OCC | C7H16O3
catalyst | Iron | 0.81 mmol, 45 mg | [Fe] | Fe
product | 6-(4-Chloro-phenyl)-3-[3-methoxy-4-(2-pyrrolidin-1-yl-ethoxy)phenyl]-3H-quinazolin-4-one | ClC1=CC=C(C=C1)C=1C=C2C(N(C=NC2=CC1)C1=CC(=C(C=C1)OCCN1CCCC1)OC)=O | C27H26ClN3O3
